US09399637B2
Step 1) tert-butyl 3a,4,7,7a-tetrahydro-1H-isoindole-2(3H)-carboxylate
Accordingly, the isoindole in DCM (300 mL) was treated with Et3N (39.61 g, 391.4 mmol) and (Boc)2O (68.32 g, 313.1 mmol) at 0° C. for 0.5 h and then warmed to rt and stirred for another 21 h. The resulting mixture was concentrated in vacuo and the residue was dissolved in EtOAc (600 mL), then washed with citric acid aqueous solution (1 M, 2×130 mL), followed by saturated NaHCO3 (2×130 mL) and brine (250 mL). The combined organic layers were dried over anhydrous Na2SO4 then filtered and concentrated in vacuo. The residue was purified by silica gel column chromatography (EtOAc/PE (v/v)=1/5) to give the title compound as orange red oil (45.00 g, 77.3%).

reactant | isoindole | C=1NC=C2C=CC=CC12 | C8H7N
reactant | Et3N | 391.4 mmol, 39.61 g | CCN(CC)CC | C6H15N
reactant | (Boc)2O | 313.1 mmol, 68.32 g | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
solvent | DCM | 300 mL | C(Cl)Cl | CH2Cl2
product | tert-butyl 3a,4,7,7a-tetrahydro-1H-isoindole-2(3H)-carboxylate | 45.00 g, 77.3% | C1N(CC2CC=CCC12)C(=O)OC(C)(C)C | C13H21NO2
